US04537621
3.1 g of methylamine in the form of a 40% strength aqueous solution were added to a solution of 19.2 parts by weight of 3-(2'-chloro-4'-trifluoromethylphenoxy)-6-nitrobenzenesulfenyl chloride in 100 parts by volume of ether, and stirring was continued for a further 2 hours at room temperature. The organic phase was separated off, dried with magnesium sulfate, filtered, and evaporated down under reduced pressure. 17.5 parts by weight (95% yield) of 3-(2'-chloro-4'-trifluoromethylphenoxy)-6-nitrobenzene-N-methylsulfenamide of refractive index nD25 : 1.6109 were obtained (compound No. 5).

reactant | methylamine | 3.1 g | CN | CH5N
reactant | 3-(2'-chloro-4'-trifluoromethylphenoxy)-6-nitrobenzenesulfenyl chloride | ClC1=C(OC=2C=C(C(=CC2)[N+](=O)[O-])SCl)C=CC(=C1)C(F)(F)F | C13H6Cl2F3NO3S
solvent | ether | CCOCC | C4H10O
product | 3-(2'-chloro-4'-trifluoromethylphenoxy)-6-nitrobenzene N-methylsulfenamide | 95% yield | ClC1=C(OC=2C=CC(=CC2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F.CNS | InChI=1S/C13H7ClF3NO3.CH5NS/c14-11-7-8(13(15,16)17)1-6-12(11)21-10-4-2-9(3-5-10)18(19)20;1-2-3/h1-7H;2-3H,1H3
